US03953595
A solution of 5.0 g. (0.03 mole) of 2-hydroxy-5-methoxybenzoic acid in 50 ml. of dimethylformamide is treated with 2.5 g. (0.06 mole) of sodium hydride in a 56.6% oil suspension, followed by the addition of 7.6 g. (0.06 mole) of benzyl chloride. The resulting mixture is heated at 98°-103° C. for one hour, after which the insolubles are filtered, the filtrate diluted with 100 ml. of water and the aqueous solution extracted with ether. The aqueous phase is discarded and the ether phase dried over sodium sulfate and evaporated to provide the intermediate, benzyl 2-benzyloxy-5-methoxybenzoate, as an oil, 5.0 g.

reactant | 2-hydroxy-5-methoxybenzoic acid | 0.03 mole | OC1=C(C(=O)O)C=C(C=C1)OC | C8H8O4
reactant | sodium hydride | 0.06 mole | [H-].[Na+]
reactant | benzyl chloride | 0.06 mole | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | benzyl 2-benzyloxy-5-methoxybenzoate | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)OC | C22H20O4
